US20010018525A1
step 4 {3,3″-Dichloro-5′-[6-(naphthalen-1-ylcarbamoyloxy)-hexylcarbamoyl]-[1,1′;3′,1″]-terphenyl-2′-yloxy}acetic acid methyl ester
To a stirred solution of 3,3″-dichloro-5′-[6-(naphthalen-1-ylcarbamoyloxy)-hexylcarbamoyl] -[1,1′;3′,1″]-terphenyl-2′-ol (0.320 g, 0.510 mmol) and K2CO3 (0.078 g, 0.561 mmol) in DMF (10 ImL) at room temperature was added dropwise methyl bromoacetate (0.097 mL, 1.02 mmol). After 18 h at this temperature, it was concentrated and then diluted with excess EtOAc (250 mL). The organic layer was washed with 1 N HCl (25 mL), sat. aq. NaHCO3 (25 mL), and brine (25 mL) and then dried (MgSO4). After concentration, the residue was purified by flash chromatography (30 to 50% EtOAc/petroleum ether gradient) to afford the product (0.231 g, 65%) as a solid; 1H NMR (DMSO-d6) δ1.32-1.49 (m, 4H), 1.49-1.73 (m, 4H), 3.23-3.35 (m, 2H), 3.44 (s, 3H), 3.99 (s, 2H), 4.11 (t, J=6.3 Hz, 2H), 7.45-7.63 (m, 10H), 7.69 (s, 2H), 7.73 (d, J=9.4 Hz, 1H), 7.87-7.94 (m, 3H), 8.02-8.12 (m, 1H), 8.61 (t, J= 5.5 Hz, 1H), 9.49 (s, 1H); mass spectrum [(+) ESI], m/z 700 (M+H)+.

reactant | 3,3″-dichloro-5′-[6-(naphthalen-1-ylcarbamoyloxy)-hexylcarbamoyl] -[1,1′;3′,1″]-terphenyl-2′-ol | 0.510 mmol, 0.320 g | ClC=1C=C(C=CC1)C1=C(C(=CC(=C1)C(NCCCCCCOC(NC1=CC=CC2=CC=CC=C12)=O)=O)C1=CC(=CC=C1)Cl)O | C36H32Cl2N2O4
reactant | K2CO3 | 0.561 mmol, 0.078 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl bromoacetate | 1.02 mmol, 0.097 mL | BrCC(=O)OC | C3H5BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | {3,3″-Dichloro-5′-[6-(naphthalen-1-ylcarbamoyloxy)-hexylcarbamoyl]-[1,1′;3′,1″]-terphenyl-2′-yloxy}acetic acid methyl ester | 0.231 g, 65% | COC(COC1=C(C=C(C=C1C1=CC(=CC=C1)Cl)C(NCCCCCCOC(NC1=CC=CC2=CC=CC=C12)=O)=O)C1=CC(=CC=C1)Cl)=O | C39H36Cl2N2O6
